### PR TITLE
Fixing bug BZ#5769 (generating a name "_" out of a type "_something")

### PR DESCRIPTION
**Pull request by herbelin**
Hi, I fixed this by replacing the algorithm which was mapping type `_Something` into an illegal `_`  by an algorithm producing `_s` from `_Something`. In case the name has no letter, as in `___` or `___1'`, the algorithm arbitrarily defaults to `x` (did not have a better idea).

### CODE REVIEW

File: lib/unicode.ml [hunk 1]
```diff
@@ -24,14 +25,15 @@ let table = Array.make (1 lsl 17) 0
...
-  | IdentPart -> 2 lsl ((i land 7) lsl 1) (* 10 *)
-  | Symbol    -> 3 lsl ((i land 7) lsl 1) (* 11 *)
-  | Unknown   -> 0 lsl ((i land 7) lsl 1) (* 00 *)
+  | Letter    -> 1 lsl ((i land 7) * 3) (* 001 *)
+  | IdentPart -> 2 lsl ((i land 7) * 3) (* 010 *)
+  | Symbol    -> 3 lsl ((i land 7) * 3) (* 011 *)
+  | IdentSep  -> 4 lsl ((i land 7) * 3) (* 011 *)
+  | Unknown   -> 0 lsl ((i land 7) * 3) (* 000 *)
 
 (* Helper to reset 2 bits in a word. *)
```
Comment (JasonGross) [inline lib/unicode.ml]: Should this be "3 bits"?

File: lib/unicode.ml [hunk 2]
```diff
@@ -50,10 +52,11 @@ let mk_lookup_table_from_unicode_tables_for status tables =
...
 let lookup x =
-  let v = (table.(x lsr 3) lsr ((x land 7) lsl 1)) land 3 in
+  let v = (table.(x lsr 3) lsr ((x land 7) * 3)) land 7 in
     if      v = 1 then Letter
     else if v = 2 then IdentPart
     else if v = 3 then Symbol
+    else if v = 4 then IdentSep
     else Unknown
 
 (* [classify] discriminates between 3 different kinds of
```
Comment (JasonGross) [inline lib/unicode.ml]: Is it still 3 kinds?

**Review by JasonGross — CHANGES_REQUESTED** [review]

File: lib/unicode.ml [hunk 3]
```diff
@@ -24,14 +25,15 @@ let table = Array.make (1 lsl 17) 0
...
    Notice that pattern "00" means "undefined". *)
 let mask i = function
-  | Letter    -> 1 lsl ((i land 7) lsl 1) (* 01 *)
-  | IdentPart -> 2 lsl ((i land 7) lsl 1) (* 10 *)
-  | Symbol    -> 3 lsl ((i land 7) lsl 1) (* 11 *)
-  | Unknown   -> 0 lsl ((i land 7) lsl 1) (* 00 *)
+  | Letter    -> 1 lsl ((i land 7) * 3) (* 001 *)
+  | IdentPart -> 2 lsl ((i land 7) * 3) (* 010 *)
+  | Symbol    -> 3 lsl ((i land 7) * 3) (* 011 *)
+  | IdentSep  -> 4 lsl ((i land 7) * 3) (* 011 *)
```
Comment (psteckler) [inline lib/unicode.ml]: Should the comment for `IdentSep` be `100` instead of `011`?

Comment (herbelin) [reply lib/unicode.ml]: Ahem, @JasonGross, @psteckler, indeed, thanks and all 3 typos now fixed.

File: lib/unicode.ml [hunk 4]
```diff
@@ -67,13 +70,13 @@ let classify =
...
-        Unicodetable.pc;           (* Punctation, connector.            *)
-        Unicodetable.pe;           (* Punctation, open.                 *)
-        Unicodetable.ps;           (* Punctation, close.                *)
-        Unicodetable.pi;           (* Punctation, initial quote.        *)
-        Unicodetable.pf;           (* Punctation, final quote.          *)
-        Unicodetable.po;           (* Punctation, other.                *)
+        Unicodetable.pd;           (* Punctuation, dash.                *)
+        Unicodetable.pc;           (* Punctuation, connector.           *)
+        Unicodetable.pe;           (* Punctuation, open.                *)
+        Unicodetable.ps;           (* Punctution, close.                *)
```
Comment (SkySkimmer) [inline lib/unicode.ml]: typo

File: lib/unicode.ml [hunk 5]
```diff
@@ -107,14 +110,14 @@ let classify =
...
-    mk_lookup_table_from_unicode_tables_for Letter
+    mk_lookup_table_from_unicode_tables_for IdentSep
       [
         single 0x005F;             (* Underscore.                       *)
         single 0x00A0;             (* Non breaking space.               *)
       ];
     mk_lookup_table_from_unicode_tables_for IdentPart
       [
-        single 0x0027;             (* Special space.                    *)
+        single 0x0027;             (* single quote.                     *)
```
Comment (SkySkimmer) [inline lib/unicode.ml]: Nitpick: surrounding comments start with a capital letter.

File: test-suite/bugs/closed/5769.v [hunk 6]
```diff
@@ -0,0 +1,20 @@
...
+Inductive _'Foo :=.
+Lemma bob : (sigT (fun x : nat => _'Foo)) -> _'Foo.
+destruct 1.
+Check _'f.
+Abort.
+
+Inductive ____ :=.
+Lemma bob : (sigT (fun x : nat => ____)) -> ____.
+destruct 1.
+Check x.
```
Comment (SkySkimmer) [inline test-suite/bugs/closed/5769.v]: Maybe this should be `exact x` to be sure that `x` is the name of the `____` and not the `nat`.

**Review by SkySkimmer — COMMENTED** [review]
Nice.

**Comment by SkySkimmer** [comment]
>In case the name has no letter, as in ___ or ___1', the algorithm arbitrarily defaults to x (did not have a better idea).

This is probably beyond the scope of this PR but in the future we could have some user side way to set the default name for a type.

File: test-suite/bugs/closed/5769.v (hunk 6 above)
Comment (herbelin) [reply test-suite/bugs/closed/5769.v]: @skysimmer: First comment relevant and second actually shows a bug (should be `x0`). Now updated.

**Comment by SkySkimmer** [comment]
By the way, is it intended to have the `Set` be named `P` in this?
``` coq
Lemma bob : (sigT (fun x : nat => Set)) -> Set.
Proof.
  destruct 1.
  exact P.
Qed.
```

**Comment by herbelin** [comment]
@SkySkimmer: I don't think indeed that it was initially intended...
